US08048902B2
Following the procedure described in Example 36, Step 6, [5-(4-bromo-3-methyl-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester and 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester were reacted to provide 2-(4′-{4-[(R)-1-(2-fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-2′-methyl-biphenyl-4-yl)-propionic acid ethyl ester, which was hydrolyzed to the acid as described in Example 36, Step 7.

reactant | [5-(4-bromo-3-methyl-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester | FC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC(=C(C=C1)Br)C)C)=O | C20H18BrFN2O3
reactant | 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO4
product | 2-(4′-{4-[(R)-1-(2-fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-2′-methyl-biphenyl-4-yl)-propionic acid ethyl ester | C(C)OC(C(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)C1=C(C(=NO1)C)NC(=O)O[C@H](C)C1=C(C=CC=C1)F)C)=O | C31H31FN2O5
